US04616013
A stirred mixture of 5-cyano-2-methylindan-1-one (9.36 g), glacial acetic acid (90 ml) and concentrated hydrochloric acid (90 ml) was heated under reflux for 20 hours to afford 5-carboxy-2-methylindan-1-one, m.p. 189°-194° C. (from aqueous ethanol).

reactant | 5-cyano-2-methylindan-1-one | 9.36 g | C(#N)C=1C=C2CC(C(C2=CC1)=O)C | C11H9NO
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 90 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-carboxy-2-methylindan-1-one | C(=O)(O)C=1C=C2CC(C(C2=CC1)=O)C | C11H10O3
